US09255273B2
T-butylcarbazate (35.15 g, 266 mmol) and 200 mL of CH2Cl2 were added to a round bottom flask. Potassium carbonate (55.2 g, 0.4 moles) dissolved in 350 mL of water was added to the flask, and the mixture was stirred for 15 minutes with ice chilling. 2,3 dimethylbenzoyl chloride (44.9 g, 266 mmol) in ca, 200 mL of CH2Cl2 was added drop-wise from a 500 mL separatory funnel over 30 minutes. The reaction was allowed to stir overnight and then the reaction mixture was poured into a 1 L separatory funnel and the CH2Cl2 phase was separated. Then ca. 150 mL of water was added, and the mixture was extracted twice with 150 mL of CDCl3. The combined organic phase was back-extracted with 100 mL of water, men with 1N HCl (250 mL), to remove the hydrazide. The organic phase was dried, stirred with charcoal, and the solvent removed in vacuo to yield a light tan solid (71.5 g) of N′-(2,3-dimethyl-benzoyl)-hydrazinecarboxylic acid, tert-butyl ester. 1H NMR (300 MHz, CDCl3) δ (ppm): (br, 1H), 7.22 (m, 2H), 7.1 (t, 1H), 7.85 (br, 1H), 2.35 (s, 3H), 2.3 (s, 3H), 1.5 (s, 9H).

reactant | T-butylcarbazate | 266 mmol, 35.15 g | C(C)(C)(C)OC(NN)=O | C5H12N2O2
reactant | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
reactant | Potassium carbonate | 0.4 moles, 55.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3 dimethylbenzoyl chloride | 266 mmol, 44.9 g | CC1=C(C(=O)Cl)C=CC=C1C | C9H9ClO
reactant | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | water | 350 mL | O | H2O
product | N′-(2,3-dimethyl-benzoyl)-hydrazinecarboxylic acid, tert-butyl ester | 71.5 g | CC1=C(C(=O)NNC(=O)OC(C)(C)C)C=CC=C1C | C14H20N2O3
